US06538152B1
N,N-Dimethyl-2-[2-dimethylamino-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetamide (503 mg) was dissolved in 1N aqueous sodium hydroxide solution (6.0 ml), and the solution was stirred for 20 hours at room temperature. 1N Hydrochloric acid (6.0 ml) was added to the stirred reaction mixture under ice-cooling, and direct purification of the resulting mixture by medium pressure liquid column chromatography on ion exchange resin (Nippon Rensui Co. Ltd., DIAION® HP-20) (eluent:water/methanol=1/0 to 1/1) gave 2-[2-dimethylamino-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid (330 mg).

reactant | N,N-Dimethyl-2-[2-dimethylamino-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetamide | 503 mg | CN(C(COC1=C(C=C(C=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)N(C)C)=O)C | C23H33N3O4
reactant | Hydrochloric acid | 1N, 6.0 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 6.0 ml | [OH-].[Na+]
product | 2-[2-dimethylamino-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid | 330 mg | CN(C1=C(OCC(=O)O)C=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)C | C21H28N2O5
